US06306839B1
5-Acetyl-3-chloro-2-methylthiopyridine
5-Acetyl-2,3-dichloropyridine (24.5 g, 0.129 mol) was slurried in t-butanol (200 mL) and sodium methanethiolate (10 g, 0.143 mol) was added. The mixture was heated under reflux conditions for two hours, cooled to room temperature, and diluted with water (200 mL) and ether (150 mL). This was separated and the aqueous phase extracted with ether (50 mL). The combined organic extracts were washed with water (100 mL) and saturated sodium chloride solution (100 mL), dried over anhydrous sodium sulphate, and evaporated to dryness to give the desired product (24.1 g, 94%) as a pale, low melting solid.

reactant | 5-Acetyl-2,3-dichloropyridine | 0.129 mol, 24.5 g | C(C)(=O)C=1C=C(C(=NC1)Cl)Cl | C7H5Cl2NO
reactant | sodium methanethiolate | 0.143 mol, 10 g | C[S-].[Na+]
solvent | t-butanol | 200 mL | C(C)(C)(C)O | C4H10O
solvent | water | 200 mL | O | H2O
solvent | ether | 150 mL | CCOCC | C4H10O
product | 5-Acetyl-3-chloro-2-methylthiopyridine | 24.1 g, 94% | C(C)(=O)C=1C=C(C(=NC1)SC)Cl | C8H8ClNOS
